US05245046
Methyl α-(phenylmethylamino)-3-indoleacetate
To a stirred solution of 6.43 g (0.06 mole) of benzylamine and 5 mL (5.25 g, 0.09 mole) of acetic acid in 50 mL of MeOH was added a solution of 5.28 g (0.06 mole) of methyl glyoxylate in 50 mL of MeOH followed by 5.86 g (0.05 mole) of indole. The resulting solution was allowed to stand for 69 hours. The solvent was evaporated. The residue was treated with 200 mL of H2O. Sodium bicarbonate was added until CO2 evolution ceased. The mixture was extracted with CH2Cl2 (3×100 mL). The combined extracts were washed with 50 mL brine and dried over MgSO4. Evaporation of the solvent left 16.2 g of orange-brown oil which solidified upon standing. The solid was chromatographed on a 700 g column of silica gel. The column was eluted with 7.5% MeOH-CH2Cl2 and 200 mL fractions were collected. The fractions were assayed by silica gel (TLC (1×4") (5% MeOH-CH2Cl2). Fractions 10-14 were combined giving 12.7 g of red oil. The oil was chromatographed on a 700 g column of silica gel. The column was eluted with 40% acetone-Skellysolve B and 200 mL fractions were collected. The fractions were assayed by silica gel TLC (1×4") (40% acetone-Skellysolve B). Fractions 11-14 were combined and crystallized from ether-THF-hexane giving 8.07 g (55%) of the title compound as a pale pink solid, m.p. 91.5°-93° C.

reactant | benzylamine | 0.06 mole, 6.43 g | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 0.09 mole, 5 mL, 5.25 g | C(C)(=O)O | C2H4O2
reactant | methyl glyoxylate | 0.06 mole, 5.28 g | C(C=O)(=O)OC | C3H4O3
reactant | indole | 0.05 mole, 5.86 g | N1C=CC2=CC=CC=C12 | C8H7N
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | Methyl α-(phenylmethylamino)-3-indoleacetate | 12.7 g | C1(=CC=CC=C1)CNC(C(=O)OC)C1=CNC2=CC=CC=C12 | C18H18N2O2
